datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([C:4]([H:11])([H:12])[H:13])=[O:5])([H:6])[H:7].[O:14]>>[C:0](=[C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([C:4]([H:12])[H:13])=[O:5])([H:6])[H:7].[H:11][O:14],24.945008
[C:0](=[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])[C:4](=[C:5]([C:6]([C:7](=[C:8]([H:20])[H:21])[C:9]([H:22])([H:23])[H:24])([H:18])[H:19])[H:17])[H:16])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2]1([C:3]([H:13])([H:14])[H:15])[C:4]([H:16])=[C:5]([H:17])[C:6]([H:18])([H:19])[C:7]([C:9]([H:22])([H:23])[H:24])[C:8]1([H:20])[H:21])[H:12])([H:10])[H:11],128.951
[C:4](=[C:5]([C:6]([C:7]([H:12])([H:13])[H:14])([H:10])[H:11])[H:9])[H:8].[O:0]([O:1][H:3])[H:2]>>[H:2][C:4](=[C:5]([C:6]([C:7]([H:12])([H:13])[H:14])([H:10])[H:11])[H:9])[H:8].[O:0][O:1][H:3],-31.29632
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])=[C:4]([C:5]([H:16])([H:17])[H:18])[c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:12].[C:24]([C:25]([C:26]([H:31])([H:32])[H:33])[C:27]([H:34])([H:35])[H:36])([H:28])([H:29])[H:30]>>[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([C:5]([H:16])([H:17])[H:18])[c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[C:25]([C:24]([H:28])([H:29])[H:30])([C:26]([H:31])([H:32])[H:33])[C:27]([H:34])([H:35])[H:36])[H:12],13.4725
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[C:6]([C:7]([C:8]([C:9]([H:18])([H:19])[H:20])([O:10][O:11])[H:17])([H:15])[H:16])([H:12])([H:13])[H:14]>>[C:0](=[C:1]([H:4])[H:5])[H:3].[H:2][O:11][O:10][C:8]([C:7]([C:6]([H:12])([H:13])[H:14])([H:15])[H:16])([C:9]([H:18])([H:19])[H:20])[H:17],127.31912
[C:0](=[C:1]([C:2](=[C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:11])[H:10])([H:8])[H:9].[c:18]1[c:19]([H:24])[c:20]([H:25])[c:21]([H:26])[c:22]([H:27])[c:23]1[H:28]>>[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])([C:6](=[C:7]([H:16])[H:17])[H:15])[c:18]1[c:19]([H:24])[c:20]([H:25])[c:21]([H:26])[c:22]([H:27])[c:23]1[H:28])[H:11])[H:10])([H:8])[H:9],-4.76976
[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])=[C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:27])([H:28])[H:29])[C:11]([H:30])([H:31])[H:32])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])[H:18])[H:14])([H:12])[H:13]>>[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])[C:4]1([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]([H:25])([H:26])[C:9]1([C:10]([H:27])([H:28])[H:29])[C:11]([H:30])([H:31])[H:32])[H:14])([H:12])[H:13],23.3886
[C:0]([C:1]([N+:2](=[O:3])[O-:4])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:0]([C:1]([O:4][N:2]=[O:3])([H:8])[H:9])([H:5])([H:6])[H:7],253.80144
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[O:7][O:8][H:9]>>[C:0](#[C:1][C:2]([H:5])[H:6])[H:3].[H:4][O:7][O:8][H:9],40.3036352
[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[C:15]([C:16]([H:19])([H:20])[H:21])([H:17])[H:18]>>[C:0]([C:1]1=[C:2]([H:10])[C:3]([H:11])=[C:4]([H:12])[C:5]([H:13])[C:6]1([H:14])[C:15]([C:16]([H:19])([H:20])[H:21])([H:17])[H:18])([H:7])([H:8])[H:9],32.101
[N:0]([N:1]([H:4])[H:5])([H:2])[H:3].[O:6][O:7][H:8]>>[H:2][O:6][O:7][H:8].[N:0]([N:1]([H:4])[H:5])[H:3],-6.6944
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]#[C:5][H:11])[H:7])[H:6].[C:12]([C:13]([S:14][H:20])[C:15](=[S:16])[H:21])([H:17])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]#[C:5][H:11])[H:6].[H:7][C:13]([C:12]([H:17])([H:18])[H:19])([S:14][H:20])[C:15](=[S:16])[H:21],136.147
[C:0]([N:1]=[O:2])([H:3])([H:4])[H:5].[C:6]([H:7])([H:8])[H:9]>>[C:0]([N:1]=[O:2])([H:4])[H:5].[H:3][C:6]([H:7])([H:8])[H:9],22.65636
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])[H:7])[H:6].[C:12]([C:13]([H:16])([H:17])[H:18])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])([H:7])[C:12]([C:13]([H:16])([H:17])[H:18])([H:14])[H:15])[H:6],11.7989
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8]([H:9])([H:10])[H:11]>>[C:0](#[C:1][C:2]=[C:3]([H:6])[H:7])[H:4].[H:5][C:8]([H:9])([H:10])[H:11],79.6215
[C:0]([C:1](=[S:2])[H:6])([H:3])([H:4])[H:5].[C:7]([C:8](=[C:9]([H:13])[H:14])[H:12])([H:10])[H:11]>>[C:0]([C:1](=[S:2])[H:6])([H:4])[H:5].[H:3][C:7]([C:8](=[C:9]([H:13])[H:14])[H:12])([H:10])[H:11],66.1072
[C:0]([C:1](=[C:2]([C:3]([H:14])([H:15])[H:16])[c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[H:13])([H:10])([H:11])[H:12].[C:22]([C:23]([c:24]1[c:25]([H:34])[c:26]([H:35])[c:27]([H:36])[c:28]([H:37])[c:29]1[H:38])[H:33])([H:30])([H:31])[H:32]>>[C:0]([C:1]([C:2]([C:3]([H:14])([H:15])[H:16])[c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])([H:13])[C:23]([C:22]([H:30])([H:31])[H:32])([c:24]1[c:25]([H:34])[c:26]([H:35])[c:27]([H:36])[c:28]([H:37])[c:29]1[H:38])[H:33])([H:10])([H:11])[H:12],37.0702
[C:0](=[C:1]([C:2]([S:3][H:8])[H:7])[H:6])([H:4])[H:5].[S:9]=[C:10]([C:11]([S:12][H:16])([H:14])[H:15])[H:13]>>[C:0](=[C:1]([C:2]([S:3][H:8])([H:7])[H:14])[H:6])([H:4])[H:5].[S:9]=[C:10]([C:11]([S:12][H:16])[H:15])[H:13],13.8072
